US08309580B2
3-[{4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethoxy)phenyl]-3-furyl}methyl)amino]benzoyl}(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethoxy)phenyl]-3-furyl}methyl)amino]benzoic acid (355 mg) as well as ethyl 3-(methylamino)propanoate (118 mg) to give the title compound (401 mg, 96%) as an amorphous compound.

reactant | 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethoxy)phenyl]-3-furyl}methyl)amino]benzoic acid | 355 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OC(F)(F)F)C)NC1=CC=C(C(=O)O)C=C1 | C26H26F3NO4
reactant | ethyl 3-(methylamino)propanoate | 118 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[{4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethoxy)phenyl]-3-furyl}methyl)amino]benzoyl}(methyl)amino]propanoic acid | 401 mg, 96% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OC(F)(F)F)C)NC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1 | C30H33F3N2O5
